US08389523B2
13.6 g (244 mmol) of iron powder and 10.5 g (40 mmol) of N-(2-nitrophenyl)benzo[d][1,3]dioxol-5-ylamine were added to a solvent mixture of ethyl acetate (130 ml), water (65 mL) and acetic acid (15 mL), and the mixture was stirred for 1 hour at 70° C. The reaction solution was cooled to room temperature, and the waste was separated by filtration using a filter aid. The organic layer of the filtrate was batched off, washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 9.2 g (yield: 99%) of N-(benzo[d][1,3]dioxol-5-yl)benzene-1,2-diamine as white crystals.

reactant | N-(2-nitrophenyl)benzo[d][1,3]dioxol-5-ylamine | 40 mmol, 10.5 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC2=C(OCO2)C=C1 | C13H10N2O4
reactant | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 65 mL | O | H2O
catalyst | iron | 244 mmol, 13.6 g | [Fe] | Fe
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | N-(benzo[d][1,3]dioxol-5-yl)benzene-1,2-diamine | 9.2 g, yield: 99% | O1COC2=C1C=CC(=C2)NC=2C(=CC=CC2)N | C13H12N2O2
